US05047411
A mixture of 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-3,7-dimethylimidazo[1,2-a]pyridine (11.0 g) and cyanogenbromide (5.0 g) in ethanol (165 ml) was stirred for 100 minutes at ambient temperature. To the reaction mixture was added a solution of ethyl acetate and water, and the mixture was adjusted to pH 1.0 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 8 with 20% aqueous potassium carbonate and the resulting precipitate was collected by filtration. The precipitate was subjected to a column chromatography on alumina eluting with a solution of chloroform and methanol (19:1 V/V). The fractions containing desired product were combined and evaporated to give 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole (7.45 g).

reactant | 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-3,7-dimethylimidazo[1,2-a]pyridine | 11.0 g | NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1C)O | C17H19N3O
reactant | cyanogenbromide | 5.0 g | N#CBr | CBrN
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 165 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole | 7.45 g | CC1=C(N=C2N1C=CC(=C2)C)CCC2=CC1=C(N=C(O1)N)C=C2 | C18H18N4O
